US06933305B2
By a similar reaction operation as in Starting Material Synthetic Example 4 using 5-amino-2,3,4,5-tetrahydro-1-benzothiepine-8-carboxylic acid methyl ester (2.50 g) and benzyloxycarbonyl chloride (2.69 g), the objective 5-(benzyloxycarbonylamino)-2,3,4,5-tetrahydro-1-benzothiepine-8-carboxylic acid methyl ester (3.53 g) was obtained as colorless crystals.

reactant | 5-amino-2,3,4,5-tetrahydro-1-benzothiepine-8-carboxylic acid methyl ester | 2.50 g | COC(=O)C1=CC2=C(C(CCCS2)N)C=C1 | C12H15NO2S
reactant | benzyloxycarbonyl chloride | 2.69 g | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
product | 5-(benzyloxycarbonylamino)-2,3,4,5-tetrahydro-1-benzothiepine-8-carboxylic acid methyl ester | 3.53 g | COC(=O)C1=CC2=C(C(CCCS2)NC(=O)OCC2=CC=CC=C2)C=C1 | C20H21NO4S
